US08754229B2
Preparation of Methyl 4-amino-6-(4-chloro-3-fluorophenyl)-5-fluoro-3-(methylthio)picolinate (Compound 93)
Methyl 4-amino-6-(4-chloro-3-fluorophenyl)-5-fluoro-3-iodopicolinate (420 mg, 0.99 mmol) and tri-n-butylmethylthiostannane (530 mg, 1.6 mmol) were dissolved in 5 ml dry DMF. The solution was purged with a nitrogen stream for 10 m, treated with his (triphenylphosphine) palladium (II) chloride (70 mg, 0.01 mmol) and copper (I) iodide (19 mg, 0.01 mmol) and heated to 100° C. After 5 h, an additional 350 mg, 1.0 mmol, of the stannane were added and heating was continued for 8 h more. After cooling, the mixture was stirred with 10 ml water and 50 ml ethyl acetate and then filtered through a glass wool plug to remove yellow solids. The organic phase was separated and stirred with 25 ml 10% aq. potassium bifluoride solution for 30 m. After filtration through diatomaceous earth, the solution was washed with 10 ml water, 10 ml sat. NaCl, dried (Na2SO3) and evaporated. The crude material was purified by silica gel chromatography using a 0-40% ethyl acetate-hexane gradient. After evaporation of the solvents the oily product was stirred with hexane to produce a white solid which was collected by filtration and dried under vacuum to give 260 mg of the written product as a white solid: mp 125-126° C.; 1H NMR (400 MHz, CDCl3) δ 7.77 (dd, J=28.9, 9.5 Hz, 2H), 7.47 (m, 1H), 5.28 (s, 2H), 3.99 (s, 3H), 2.35 (s, 3H). 19F NMR (376 MHz, CDCl3) δ −115.10, −143.40; ESIMS m/z 345 ([M+H]+), 343 ([M−H]−).

reactant | Methyl 4-amino-6-(4-chloro-3-fluorophenyl)-5-fluoro-3-iodopicolinate | 0.99 mmol, 420 mg | NC1=C(C(=NC(=C1F)C1=CC(=C(C=C1)Cl)F)C(=O)OC)I | C13H8ClF2IN2O2
reactant | tri-n-butylmethylthiostannane | 1.6 mmol, 530 mg | C(CCC)[Sn](SC)(CCCC)CCCC
reactant | stannane | [SnH4]
reactant | water | 10 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | (triphenylphosphine) palladium (II) chloride | 0.01 mmol, 70 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper (I) iodide | 0.01 mmol, 19 mg | [Cu]I
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4-amino-6-(4-chloro-3-fluorophenyl)-5-fluoro-3-(methylthio)picolinate | 260 mg | NC1=C(C(=NC(=C1F)C1=CC(=C(C=C1)Cl)F)C(=O)OC)SC | C14H11ClF2N2O2S
